US05455373
Perfluorooctanoic acid 18.6 g (0.045 mole), 48% hydrobromic acid 9.1 g (0.054 mole) and Freon 113 (400 ml) were mixed and treated with fluorine. The solution immediately turned to dark red. When the dark red color disappeared, fluorine was terminated and the reaction mixture was poured into dilute hydrochloric acid solution. The lower phase was separated and dried over magnesium sulfate. After removing the solvent, 7.2 g (36% yield) of perfluoroheptyl bromide was obtained.

reactant | Perfluorooctanoic acid | 0.045 mole, 18.6 g | FC(C(=O)O)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8HF15O2
reactant | hydrobromic acid | 0.054 mole, 9.1 g | Br | BrH
reactant | fluorine | FF | F2
product | perfluoroheptyl bromide | 7.2 g, 36% yield | FC(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)Br | C7BrF15
